### ISSUE TITLE
grind: normalization of `UInt16.toNat 0` gets in the way

### ISSUE THREAD

**Issue by abentkamp** [leanprover/lean4#11990]
### Description

Goals around `UInt16.toNat` can sometimes fail because `grind` normalizes `UInt16.toNat 0` too eagerly.

### Context

Discussion here:
[#general > grind confused by &#96;UInt.toNat&#96;?](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/grind.20confused.20by.20.60UInt.2EtoNat.60.3F/with/567731286)

### Steps to Reproduce

```lean
example (b : UInt16) (h : b = 0) : UInt16.toNat b = 0 := by grind [UInt16.toNat_zero]
```

**Expected behavior:** `grind` should be able to prove this

**Actual behavior:** `grind` fails

### Versions

`4.28.0-nightly-2026-01-12` on live.lean-lang.org

### Workaround

For the concrete example above, this is a possible workaround, but it feels like this should not be necessary:
```
@[grind gen]
theorem UInt16.toNat_of_eq_zero (h : b = 0) : UInt16.toNat b = 0 := by subst h; rfl
```

**Comment by sgraf812** [comment]
An even more distilled reproducer of "normalization defeats instantiation" and its workaround:

```lean
def f (n : Nat) : Nat := n + 1

@[grind =] theorem f_zero : f 0 = 1 := rfl

example (x : Nat) (h : x = 0) : f x = 1 := by grind

attribute [grind norm] f_zero

example (x : Nat) (h : x = 0) : f x = 1 := by grind

@[grind gen] theorem f_zero_gen {x : Nat} (h : x = 0) : f x = 1 := by
  subst h; rfl

example (x : Nat) (h : x = 0) : f x = 1 := by grind
```

**Comment by sgraf812** [comment]
I learned that this issue is similar to #11498 and puts the finger on an open design question for `grind` (e-matching vs. normalization/rewriting); there is no easy fix. In fact, it appears to be a decades-old research question.
